US07714099B2
Synthesis of 3,6-dibromo-2-phenylazo-phenylamine
3,6-dibromo-1,2-phenylenediamine (1.33 g, 5.0 mmol), nitrobenzene (2.06 mL, 20 mmol), and sodium hydroxide (0.20 g, 5 mmol) were mixed in an 1-neck 100-mL round bottomed flask. The flask was heated in an oil bath at 160° C. for 3 h. The mixture was cooled to room temperature and dichloromethane was added to extract the product. The extract was filtered and the solution concentrated using a rotary evaporator. The solution was chromatographed on a silica gel column using dichloromethane as eluent. The fractions were combined and solvent removed under reduced pressure. The solid was further dried under high vacuum for 1 h. Yield: 3.5%.

reactant | 3,6-dibromo-1,2-phenylenediamine | 5.0 mmol, 1.33 g | BrC=1C(=C(C(=CC1)Br)N)N | C6H6Br2N2
reactant | nitrobenzene | 20 mmol, 2.06 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | sodium hydroxide | 5 mmol, 0.20 g | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,6-dibromo-2-phenylazo-phenylamine | Yield: 3.5% | BrC=1C(=C(C(=CC1)Br)N)N=NC1=CC=CC=C1 | C12H9Br2N3
